US07608627B2
Using the procedure described for Example 43 with picolinic acid at room temperature, the reaction was stopped once 1-phenyl-1-(1H-pyrrolo[2,3-c]pyridin-2-yl)methylamine was consumed as judged by TLC analysis. Purification by Biotage chromatography provided N-[phenyl(1H-pyrrolo[2,3-c]pyridin-2-yl)methyl]-2-pyridinecarboxamide (8 mg, 6%) as an off-white solid: mp 102-110° C.; 1H NMR (300 MHz, CD3OD) δ 6.42 (1H, s), 6.64 (1H, s), 7.36-7.62 (7H, m), 7.98-8.03 (2H, m), 8.13-8.16 (1H, m), 8.59 (1H, s), 8.63-8.67 (1H, m); ESI MS m/z 329 [C20H16N4O+H]+; HPLC (Method A) >99% (AUC) tR=15.8 min.

reactant | picolinic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1-phenyl-1-(1H-pyrrolo[2,3-c]pyridin-2-yl)methylamine | C1(=CC=CC=C1)C(C1=CC=2C(=CN=CC2)N1)N | C14H13N3
product | N-[phenyl(1H-pyrrolo[2,3-c]pyridin-2-yl)methyl]-2-pyridinecarboxamide | 8 mg, 6% | C1(=CC=CC=C1)C(NC(=O)C1=NC=CC=C1)C1=CC=2C(=CN=CC2)N1 | C20H16N4O
